US04551469
2-Methyl-4-phenyl-5-(1,2,4-triazol-1-yl)-pentan-4-ol (Compound 31)
1,2,4-Triazole (0.03 mol, 2.07 g) was added portionwise to 100% sodium hydride (0.03 mol, 0.72 g) in dry DMF (30 ml) and stirred at room temperature until the effervescence ceased. 2-Methyl-4-phenyl-5-chloro-pentan-4-ol (0.01 mol, 2.1 g) in dry DMF (10 ml) was added dropwise at room temperature and then the solution was stirred at 100° for 6 hours. On cooling to room temperature the solution was poured into water to precipitate out a solid which was recrystallised from petroleum (60°-80°)/chloroform giving the title compound (60%) as a white crystalline solid, m.p. 94°-95°.

reactant | 1,2,4-Triazole | 0.03 mol, 2.07 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.03 mol, 0.72 g | [H-].[Na+]
reactant | 2-Methyl-4-phenyl-5-chloro-pentan-4-ol | 0.01 mol, 2.1 g | CC(C)CC(CCl)(O)C1=CC=CC=C1 | C12H17ClO
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-4-phenyl-5-(1,2,4-triazol-1-yl)-pentan-4-ol | CC(C)CC(CN1N=CN=C1)(O)C1=CC=CC=C1 | C14H19N3O
